US04452851
Trifluoroacetic acid (4.7 g) was added to a solution of pivaloyloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-benzhydryloxycarbonylmethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylate (syn isomer) (3.1 g) in dichloromethane (12.4 ml) and anisole (0.9 g) with ice-cooling and the mixture was stirred for an hour at ambient temperature. To the resulting solution was added isopropyl ether and stirred. The precipitates were collected by filtration, washed with isopropyl ether. The precipitates were added to a mixture of ethyl acetate and water and adjusted to pH 7.5 with saturated aqueous potassium carbonate. The separated aqueous layer was adjusted to pH 2.5 with 10% hydrochloric acid. The precipitates were filtrated off, washed with water and dried over phosphorus pentoxide in vacuo to give pivaloyloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylate (syn isomer) (1.69 g).

reactant | Trifluoroacetic acid | 4.7 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | pivaloyloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-benzhydryloxycarbonylmethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylate | 3.1 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)OCOC(C(C)(C)C)=O)C1=O)=NOCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C34H35N5O8S3
reactant | anisole | 0.9 g | C1(=CC=CC=C1)OC | C7H8O
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 12.4 ml | ClCCl | CH2Cl2
product | pivaloyloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylate | 1.69 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)OCOC(C(C)(C)C)=O)C1=O)=NOCC(=O)O | C21H25N5O8S3
